US03939180
b. PREPARATION OF 3-BROMO-5,6-DIMETHOXY-PHTHALIDE
5,6-Dimethoxyphthalide (5.82 g; 0.03 mole.), N-bromosuccinimide (5.34 g; 0.03 mole.) and α-azo-isobutyronitrile (0.1 g.) were gently refluxed in dry carbon tetrachloride (150 ml.) for 2 hours.

reactant | 5,6-Dimethoxyphthalide | 0.03 mole, 5.82 g | COC=1C=C2COC(=O)C2=CC1OC | C10H10O4
reactant | N-bromosuccinimide | 0.03 mole, 5.34 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 150 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-BROMO-5,6-DIMETHOXY-PHTHALIDE | BrC1OC(=O)C2=CC(=C(C=C12)OC)OC | C10H9BrO4
